US08227462B2
(4-Methyl-thiazol-2-yl)-carbamic acid tert-butyl ester
A solution of di-tert-butyl-dicarbonate (21 g, 96.5 mmol, 1.1 eq) in t-BuOH (50 mL) is added to a solution of 4-methyl-2-aminothiazole (10 g, 87.7 mmol) and DMAP (1.1 g, 8.8 mmol, 0.1 eq) in t-BuOH (50 mL). The reaction mixture is stirred for 72 h at rt and concentrated. The residue is diluted with EtOAc/H2O and extracted with EtOAc. The organic phase is washed with H2O and brine, dried (Na2SO4), filtered and concentrated. The residue is purified by silica gel column chromatography (DCM/MeOH, 98:2), to afford 15.2 g of the title compound as a white solid: ESI-MS: 215.1 [M+H]+; tR=3.43 min (System 1); TLC: Rf=0.30 (DCM/MeOH, 98:2).

reactant | di-tert-butyl-dicarbonate | 96.5 mmol, 21 g, 1.1 eq | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | 4-methyl-2-aminothiazole | 87.7 mmol, 10 g | CC=1N=C(SC1)N | C4H6N2S
solvent | t-BuOH | 50 mL | CC(C)(C)O | C4H10O
catalyst | DMAP | 8.8 mmol, 1.1 g, 0.1 eq | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | t-BuOH | 50 mL | CC(C)(C)O | C4H10O
product | (4-Methyl-thiazol-2-yl)-carbamic acid tert-butyl ester | 15.2 g | C(C)(C)(C)OC(NC=1SC=C(N1)C)=O | C9H14N2O2S
